US08471005B2
[7-(6-Methoxy-pyridin-3-yl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-(2-morpholin-4-ylmethyl-3H-benzimidazol-5-yl)-amine
Analogous to Example 1510b, 2-Morpholin-4-ylmethyl-3H-benzoimidazol-5-ylamine trihydrochloride (41 mg, 0.12 mmol) was reacted with Trifluoro-methanesulfonic acid [7-(6-Methoxy-pyridin-3-yl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-(2-morpholin-4-ylmethyl-3H-benzimidazol-5-yl)-amine as the TFA salt (39 mg, 67%). LCMS (HPLC): 0.80 min, m/z=457 (M+H); 1H-NMR (DMSO-d6): 9.70 (s, 1H), 9.03 (s, 1H), 8.93 (s, 1H), 8.59 (dd, 1H, J=2.0, 8.8 Hz), 8.10 (s, 1H), 7.66 (m, 2H), 7.23 (d, 1H, J=4.7 Hz), 7.01 (m, 2H), 4.33 (s, 2H), 3.94 (s, 3H), 3.78 (br s, 4H), 3.00 (br s, 4H).

reactant | 2-Morpholin-4-ylmethyl-3H-benzoimidazol-5-ylamine trihydrochloride | 0.12 mmol, 41 mg | Cl.Cl.Cl.N1(CCOCC1)CC=1NC2=C(N1)C=CC(=C2)N
reactant | Trifluoro-methanesulfonic acid [7-(6-Methoxy-pyridin-3-yl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-(2-morpholin-4-ylmethyl-3H-benzimidazol-5-yl)-amine | COC1=CC=C(C=N1)C1=CC=C2C=NC(=NN21)NC2=CC1=C(N=C(N1)CN1CCOCC1)C=C2.FC(S(=O)(=O)O)(F)F
reactant | TFA | 39 mg | C(=O)(C(F)(F)F)O | C2HF3O2
product | [7-(6-Methoxy-pyridin-3-yl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-(2-morpholin-4-ylmethyl-3H-benzimidazol-5-yl)-amine | COC1=CC=C(C=N1)C1=CC=C2C=NC(=NN21)NC2=CC1=C(N=C(N1)CN1CCOCC1)C=C2 | C24H24N8O2
